US08426447B2
A flask was charged with tetrakis(triphenylphosphine)palladium (29.3 mg, 0.025 mmol), 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (106 mg, 0.506 mmol), (S)-2-amino-5′-fluoro-2′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate (130 mg, 0.253 mmol), sodium carbonate (saturated) (0.253 mL, 1.266 mmol) and DMF (2 ml). The solution was heated at 85° C. for 18 hours. The product was purified via Gilson HPLC (gradient elution 20-90% MeCN/H2O, 0.1% TFA) to afford (S)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine.

reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.506 mmol, 106 mg | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | (S)-2-amino-5′-fluoro-2′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.253 mmol, 130 mg | FC(S(=O)(=O)OC1=CC(=C2OC=3C=CC(=CC3[C@@]3(C2=C1)N=C(OC3)N)C=3C(=NC=CC3)F)F)(F)F | C21H12F5N3O5S
reactant | sodium carbonate | 1.266 mmol, 0.253 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.025 mmol, 29.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (S)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | O1CCC(=CC1)C1=CC=2[C@]3(C4=CC(=CC=C4OC2C(=C1)F)C=1C(=NC=CC1)F)N=C(OC3)N | C25H19F2N3O3
